US04012379
A mixture of 0.354 g. of 7-amino-3-(6-methyl-1-oxidopyridazin-3-yl)thiomethyl-3-cephem-4-carboxylic acid, 0.42 g. of sodium hydrogen carbonate, 5 ml. of water and 5 ml. of acetone is cooled to 5° C and under stirring, 0.2 g. of diketene is added. The mixture is further stirred at room temperature for 30 minutes. The acetone is distilled off under reduced pressure and the residue is washed with ethyl acetate. The water layer is separated, brought to pH 2 with 50 % phosphoric acid, saturated with sodium chloride and extracted three times with ethyl acetate. The extracts are pooled, washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, concentrated and allowed to stand under cooling with ice. The resultant crystals are loosened with the addition of ether and recovered by suction-filtration. The procedure gives 7-acetoacetamido-3-(6-methyl-1-oxidopyridazin-3-yl) thiomethyl-3-cephem-4-carboxylic acid as crystals melting at 85°-87° C(decomp.). Yield 0.13 g. (30 %).

reactant | 7-amino-3-(6-methyl-1-oxidopyridazin-3-yl)thiomethyl-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CSC=2N=[N+](C(=CC2)C)[O-])C(=O)O)C1=O | C13H14N4O4S2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | water | O | H2O
reactant | diketene | C=C1CC(=O)O1 | C4H4O2
solvent | acetone | CC(=O)C | C3H6O
product | 7-acetoacetamido-3-(6-methyl-1-oxidopyridazin-3-yl) thiomethyl-3-cephem-4-carboxylic acid | C(CC(=O)C)(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2N=[N+](C(=CC2)C)[O-])C(=O)O)C1=O | C17H18N4O6S2
